US04518532
To a solution of 1.04 g (3.2 mmoles) of 8-benzyloxycarbonylamino-3-hydroxyoctanamide in 20 ml of methanol were added 3.2 ml of 1N hydrochloric acid and 200 mg of 10% palladium-carbon. The mixture was stirred under a hydrogen stream at room temperature for 3 hours. The catalyst was removed by filtration and the filtrate was evaporated to dryness to yield 670 mg of 8-amino-3-hydroxyoctanamide hydrochloride.

reactant | 8-benzyloxycarbonylamino-3-hydroxyoctanamide | 3.2 mmoles, 1.04 g | C(C1=CC=CC=C1)OC(=O)NCCCCCC(CC(=O)N)O | C16H24N2O4
reactant | hydrochloric acid | 1N, 3.2 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | 8-amino-3-hydroxyoctanamide hydrochloride | 670 mg | Cl.NCCCCCC(CC(=O)N)O | InChI=1S/C8H18N2O2.ClH/c9-5-3-1-2-4-7(11)6-8(10)12;/h7,11H,1-6,9H2,(H2,10,12);1H
